US04943578
(I) 1-[(3,4-Dichlorophenyl)acetyl]-4-(phenylmethyl)-2-piperazinemethanol
1,1'-Carbonyldiimidazole (236 mg) was added to a stirred solution of 3,4-dichlorophenylacetic acid (314 mg) in dry dichloromethane (6 ml) at room temperature under nitrogen. The resulting solution was stirred at room temperature for 1 h and added dropwise to a cooled solution of 4-(phenylmethyl)-2-piperazinemethanol (300 mg) in dry dichloromethane (3 ml) and stirred at room temperature for 19 h. The reaction mixture was diluted with dichloromethane (5 ml) and washed with 2N sodium carbonate solution (3×10 ml). The organic layer was dried and evaporated to give an oil which was purified by flash column chromatography eluting with dichloromethane:ethyl acetate (2:1) to dichloromethane:ethyl acetate (1:1) to dichloromethane:methanol (9:1) to give the title compound as a solid (200 mg). m.p. 148°-150° C.

reactant | 1,1'-Carbonyldiimidazole | 236 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3,4-dichlorophenylacetic acid | 314 mg | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | 4-(phenylmethyl)-2-piperazinemethanol | 300 mg | C1(=CC=CC=C1)CN1CC(NCC1)CO | C12H18N2O
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-[(3,4-Dichlorophenyl)acetyl]-4-(phenylmethyl)-2-piperazinemethanol | 200 mg | ClC=1C=C(C=CC1Cl)CC(=O)N1C(CN(CC1)CC1=CC=CC=C1)CO | C20H22Cl2N2O2
